US04282246
5-(1-Naphthylthio)furan-3-carboxylic Acid
Following the procedure of Example 9, except that a total volume of 90 ml. of dimethylformamide was used, 1-thionaphthol (5.02 g., 31.4 mmoles) was reacted with 5-bromofuran-3-carboxylic acid. Crude product was isolated as an oil according to Example 16. The oil was solidified by trituration with water (988 mg.). Recrystallization from hexane gave purified 5-(1-naphthylthio)furan-3-carboxylic acid (250 mg., m.p. 118°-120° C., m/e 270).

reactant | dimethylformamide | CN(C=O)C | C3H7NO
reactant | 1-thionaphthol | 31.4 mmoles, 5.02 g | C1=CC=C2C(=C1)C=CC=C2S | C10H8S
reactant | 5-bromofuran-3-carboxylic acid | BrC1=CC(=CO1)C(=O)O | C5H3BrO3
solvent | water | 988 mg | O | H2O
product | 5-(1-Naphthylthio)furan-3-carboxylic Acid | C1(=CC=CC2=CC=CC=C12)SC1=CC(=CO1)C(=O)O | C15H10O3S
